US04214097
A solution of 737 mg of ethyl 4-bromo-6,6,6-trichloro-2,3,3-trimethylhexanoate in 20 ml of anhydrous tetrahydrofuran was cooled to 0°. To the cold solution was added 163 mg of sodium ethoxide and the mixture was stirred for 5 hours. The cooled mixture was poured into cold 1N hydrochloric acid and extracted with diethyl ether. The ether extract was washed successively with water, saturated aqueous sodium bicarbonate and aqueous sodium chloride, then dried over magnesium sulfate. The dried ether extract was distilled to give 430 mg (75% yield) of ethyl 6,6,6-trichloro-2,3,3-trimethyl-4-hexenoate, b.p. 92°-95°/0.2 mm.

reactant | ethyl 4-bromo-6,6,6-trichloro-2,3,3-trimethylhexanoate | 737 mg | BrC(C(C(C(=O)OCC)C)(C)C)CC(Cl)(Cl)Cl | C11H18BrCl3O2
reactant | sodium ethoxide | 163 mg | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 6,6,6-trichloro-2,3,3-trimethyl-4-hexenoate | 430 mg, 75% yield | ClC(C=CC(C(C(=O)OCC)C)(C)C)(Cl)Cl | C11H17Cl3O2
